US07053122B2
2,3-Dihydro-1H-isoindole-4-carboxylic acid
To a suspension of the 2,3-dihydro-1H-isoindole-4-carboxylic acid methyl ester hydrochloride salt (0.18 g, 0.83 mmol) in 25% MeOH/THF (4 ml) was added dropwise lithium hydroxide (0.08 g, 3.32 mmol) in water (1 ml), followed by addition of water (2 ml) and the clear solution stirred at room temperature under nitrogen for 5 h. The solution was acidified with aq. HCl. and purified by ion-exchange (DOWEX™ 50WX2-100) resin eluting with a solvent gradient of ammonia:water (5:95) to give the title compound (0.0059 g, 4%) as a white solid.

reactant | 2,3-dihydro-1H-isoindole-4-carboxylic acid methyl ester hydrochloride salt | 0.83 mmol, 0.18 g | Cl.COC(=O)C=1C=2CNCC2C=CC1
reactant | lithium hydroxide | 3.32 mmol, 0.08 g | [OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | MeOH THF | 4 ml | CO.C1CCOC1
solvent | water | 1 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | 2,3-Dihydro-1H-isoindole-4-carboxylic acid | 0.0059 g, 4% | C1NCC=2C(=CC=CC12)C(=O)O | C9H9NO2
